US04424213
2-Thiabicyclo[3.2.2]non-5-en-3-one oxime
A solution of 29 g (0.3 m) of 1,3-cycloheptadiene, 46 g (0.4 m) of thiophosgene, and 25 ml of cyclohexane was heated under reflux for 24 hours, then stripped of volatiles under reduced pressure. The oily residue was taken up in 150 ml of methylene chloride and stirred with 1.5 m of hydroxylamine in 200 ml of water at room temperature for three days. The separated organic layer was dried over magnesium sulfate and stripped to yield 26.7 g of viscous oil. Purification by dry column chromatography using silica gel an 1:4::ether:hexane as eluent. There was obtained 14 g of yellow solid. Recrystallization of 2 g portion from 1:1 ether-hexane yielded 1.4 g of the title compound as white crystals, m. 130°-132° C.

reactant | 1,3-cycloheptadiene | 29 g | C1=CC=CCCC1 | C7H10
reactant | thiophosgene | 46 g | C(=S)(Cl)Cl | CCl2S
reactant | cyclohexane | 25 ml | C1CCCCC1 | C6H12
reactant | hydroxylamine | NO | H3NO
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | water | 200 ml | O | H2O
product | 2-Thiabicyclo[3.2.2]non-5-en-3-one oxime | 26.7 g | C12SC(CC(=CC1)CC2)=NO | C8H11NOS
